US06482990B1
To a toluene solution (22 ml) of (3S)-3-(tert-butyldimethylsiloxy)-5-phenyl-1-pentyne (1.96 g) was added n-butyl lithium (2.5 M, hexane solution, 2.64 ml) at 0° C., followed by stirring at room temperature for 30 minutes. To the solution was added diethylaluminum chloride (0.95 N, hexane solution, 8.10 ml) at 0° C., followed by stirring at room temperature for 30 minutes. To the solution was added (4R)-2-(N,N-diethylamino)methyl-4-(tert-butyldimethylsiloxy)cyclopent-2-en-1-one (0.25 M, toluene solution, 22.0 ml) at room temperature, followed by stirring for 15 minutes. The reaction solution was poured into a mixture of hexane (53 ml), a saturated aqueous ammonium chloride solution (53 ml) and an aqueous hydrochloric acid solution (3 N, 15.4 ml) with stirring, and the organic layer was separated and washed with a saturated aqueous sodium bicarbonate solution (20 ml). The resulting organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated, and the resulting residue was purified by a silica gel column chromatography (developing solvent; hexane:ethyl acetate=49:1) to give (3R,4R)-2-methylene-3-[(3S)-3-tert-butyldimethylsiloxy-5-phenylpent-1-ynyl]-4-(tert-butyldimethylsiloxy)cyclopentan-1-one (1.65 g).

reactant | (3S)-3-(tert-butyldimethylsiloxy)-5-phenyl-1-pentyne | 1.96 g | O([Si](C)(C)C(C)(C)C)[C@H](C#C)CCC1=CC=CC=C1 | C17H26OSi
reactant | n-butyl lithium | 2.5 M, 2.64 ml | C(CCC)[Li]
reactant | diethylaluminum chloride | 0.95 N, 8.10 ml | [Cl-].C(C)[Al+]CC
reactant | (4R)-2-(N,N-diethylamino)methyl-4-(tert-butyldimethylsiloxy)cyclopent-2-en-1-one | 0.25 M, 22.0 ml | C(C)N(CC)CC=1C(C[C@H](C1)O[Si](C)(C)C(C)(C)C)=O | C16H31NO2Si
reactant | ammonium chloride | 53 ml | [Cl-].[NH4+]
reactant | hydrochloric acid | 3 N, 15.4 ml | Cl | ClH
solvent | hexane | 53 ml | CCCCCC | C6H14
solvent | toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
product | (3R,4R)-2-methylene-3-[(3S)-3-tert-butyldimethylsiloxy-5-phenylpent-1-ynyl]-4-(tert-butyldimethylsiloxy)cyclopentan-1-one | 1.65 g | C=C1C(C[C@H]([C@@H]1C#C[C@H](CCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O | C29H46O3Si2
